US05288866
Preparation of 5-(Methoxymethyl)-2,3-pyridinedicarboxylic acid
A mixture of dimethyl 5-(methoxymethyl)-2,3-pyridinedicarboxylate (60.0 g, 0.25 mol) and 50% sodium hydroxide solution (50.0 g, 0.63 mol) in water is heated at 90°-110° C. for 2 hours under nitrogen while distilling off methanol and water. The reaction mixture is cooled to 10° C. treated with sulfuric acid to adjust the pH to 2.0 and filtered to obtain a solid. The solid is washed with water and vacuum dried to give the title product as a white solid (44.3 g, mp 161°-162° C.).

reactant | dimethyl 5-(methoxymethyl)-2,3-pyridinedicarboxylate | 0.25 mol, 60.0 g | COCC=1C=C(C(=NC1)C(=O)OC)C(=O)OC | C11H13NO5
reactant | sodium hydroxide | 0.63 mol, 50.0 g | [OH-].[Na+]
solvent | water | O | H2O
product | 5-(Methoxymethyl)-2,3-pyridinedicarboxylic acid | 44.3 g | COCC=1C=C(C(=NC1)C(=O)O)C(=O)O | C9H9NO5
